US08232294B2
Step 6) N-(3-Fluoro-4-(7-hydroxyquinolin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of N-(4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (5.5 g, 9.73 mmol) in MeOH (500 mL) was added a catalytic amount of Pd/C (10%). The reaction mixture was stirred at rt under H2 atmosphere overnight. The mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo to afford the title compound as a yellow solid (4.6 g, 93%).

reactant | N-(4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 9.73 mmol, 5.5 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F)F | C33H25F2N3O4
solvent | MeOH | 500 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(3-Fluoro-4-(7-hydroxyquinolin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 4.6 g, 93% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)O)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F | C26H19F2N3O4
